US04895868
4,4-dimethyl-6-hvdroxythiochroman
A mixture of 6.8 g (0.029 mmol) of 4-acetoxyphenyl-3-methylbut-2-enylsulfide and 17 g of 1:10 (w/w) phosphorus pentoxide in phosphoric acid was stirred at room temperature under nitrogen for 15hours. The reaction mixture was then treated with water and stirred for 40 min. The mixture was then extracted with 2×50 ml ether. The ether extracts were combined and the solvent removed in-vacuo. The residue was then stirred under nitrogen with a solution of 1.93 g (0.034 mmol) of potassium hydroxide in 6 ml of water and 12 ml of ethanol for 1 hour. The ethanol was then removed from the mixture on the rotary evaporator and the aqueous solution then acidified to PH-2 with sulfuric acid. The acidified solution was extracted with 2×50 ml ether. The ether extracts were combined and washed successively with water and saturated NaCl solution and then dried (MgSO4). The ether solution was then filtered and the solvent removed in-vacuo. The resultant crude product was purified by flash chromatography (silica; 20% ethyl acetate in hexanes) to give the title compound as a colorless, low-melting solid. PMR (CDCl3): 6 1.25 (6H, s), 1.90 (2H, m), 2.97 (2H, m), 6.57 (1H, dd, J~8.6, 2.7 Hz), 6.88 (1H, d, J~2.7 Hz), 6.90 (1H, d, J~8.6 Hz).

reactant | 4-acetoxyphenyl-3-methylbut-2-enylsulfide | 0.029 mmol, 6.8 g | C(C)(=O)OC1=CC=C(C=C1)C(C=C(C)C)SC(C=C(C)C)C1=CC=C(C=C1)OC(C)=O | C26H30O4S
reactant | phosphorus pentoxide | 17 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | potassium hydroxide | 0.034 mmol, 1.93 g | [OH-].[K+]
reactant | ethanol | 12 ml | C(C)O | C2H6O
solvent | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | water | 6 ml | O | H2O
product | 4,4-dimethyl-6-hvdroxythiochroman | CC1(CCSC2=CC=C(C=C12)O)C | C11H14OS
